US08039471B2
tert-Butyl (1S,2S,5S)-7-oxo-6-oxabicyclo(3,2,1)octane-2-carboxylate was dissolved in THF—H2O. At 0° C., LiOH (3 eq.) was added and the resulting mixture was stirred at 0° C. for 2 hours. TLC showed starting material was consumed. The mixture was then acidified to pH of about 2. The product was extracted with EtOAc (×3). The combined extracts were washed with brine (×1); dried over MgSO4. After filtration, the filtrate was concentrated to give (1S,2S,5S)-2-(tert-butoxycarbonyl)-5-hydroxycyclohexanecarboxylic acid (quantitative).

reactant | tert-Butyl (1S,2S,5S)-7-oxo-6-oxabicyclo(3,2,1)octane-2-carboxylate | O=C1O[C@H]2CC[C@@H]([C@@H]1C2)C(=O)OC(C)(C)C | C12H18O4
reactant | LiOH | 3 eq. | [Li+].[OH-]
solvent | THF H2O | C1CCOC1.O
product | (1S,2S,5S)-2-(tert-butoxycarbonyl)-5-hydroxycyclohexanecarboxylic acid | C(C)(C)(C)OC(=O)[C@@H]1[C@H](C[C@H](CC1)O)C(=O)O | C12H20O5
